US06136800
A suspension of 2.6 g of 3-hydroxy-estra-1,3,5(10),6-tetraen-17-one in 26 ml of tetrahydrofuran and 2.6 ml of dihydropyran is stirred with 12.3 mg of para-toluenesulfonic acid for 3 hours at room temperature. Then, it is diluted with ethyl acetate, washed with sodium bicarbonate solution as well as with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. 3.0 g of 3-tetrahydropyranyloxy-estra-1,3,5(10),6-tetraen-17-one is obtained as colorless crystals.

reactant | 3-hydroxy-estra-1,3,5(10),6-tetraen-17-one | 2.6 g | OC1=CC=2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C18H20O2
reactant | para-toluenesulfonic acid | 12.3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
solvent | dihydropyran | 2.6 ml | O1CCCC=C1 | C5H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-tetrahydropyranyloxy-estra-1,3,5(10),6-tetraen-17-one | 3.0 g | O1C(CCCC1)OC1=CC=2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C23H28O3
